US08686152B2
To a solution of 4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester (0.377 mmol; 0.128 g) in DMF (2 mL) was added (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid (0.377 mmol; 0.102 g), N,N-diisopropyl-N-ethylamine (0.755 mmol; 0.134 mL) and HBTU (0.491 mmol; 0.186 g), and the resulting mixture was stirred at room temperature overnight. The resulting mixture was purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The residue was dissolved in a 4 M HCl solution in 1,4-dioxane (3 mL) and the resulting solution was stirred overnight at room temperature. The solution was then evaporated, and the residue was triturated with diethyl ether and dried under vacuum to yield 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester as a hydrochloride salt.

reactant | 4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester | 0.377 mmol, 0.128 g | C1(CCCCC1)COC(=O)C1(CCNCC1)CC1=CC=C(C=C1)C#N | C21H28N2O2
reactant | (S)-2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionic acid | 0.377 mmol, 0.102 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC=1SC=CC1 | C12H17NO4S
reactant | N,N-diisopropyl-N-ethylamine | 0.755 mmol, 0.134 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.491 mmol, 0.186 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-(4-cyano-benzyl)-piperidine-4-carboxylic acid cyclohexylmethyl ester | C1(CCCCC1)COC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)C#N | C28H35N3O3S
